data/polar.json
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[CH3:5][C:11](=[C:7]=[N-:13])[c:14]1[cH:15][cH:18][cH:20][cH:19][cH:16]1.[O:1]=[S:6](=[O:2])([N:12]=[C:10]=[O:17])[c:22]1[cH:8][cH:3][c:21]([CH3:23])[cH:4][cH:9]1>>[O:1]=[S:6](=[O:2])([N-:12][C:10]([C:11]([CH3:5])([C:7]#[N:13])[c:14]1[cH:15][cH:18][cH:20][cH:19][cH:16]1)=[O:17])[c:22]1[cH:8][cH:3][c:21]([CH3:23])[cH:4][cH:9]1", "epd": [["LP-/Pi+", [13], [7, 13]], ["Pi-/Sigma+", [11, 7], [11, 10]], ["Pi-/LP+", [10, 12], [12]]]}
{"reaction_name": "σ-Bond carbon transfer to a preformed localized carbocation", "rsmi": "[cH:1]1[c:16]([B:10]2[O:7][C:23]([CH3:12])([CH3:13])[C:24]([CH3:14])([CH3:15])[O:8]2)[o:9][c:11]([CH3:6])[cH:29]1.[cH:2]1[c:17]([CH+:32][c:18]2[cH:3][c:21]([F:27])[cH:31][c:22]([F:28])[cH:4]2)[cH:5][c:19]([F:25])[cH:30][c:20]1[F:26]>>[O+:7]1=[B:10][O:8][C:24]([CH3:14])([CH3:15])[C:23]1([CH3:12])[CH3:13].[cH:1]1[c:16]([CH:32]([c:17]2[cH:2][c:20]([F:26])[cH:30][c:19]([F:25])[cH:5]2)[c:18]2[cH:3][c:21]([F:27])[cH:31][c:22]([F:28])[cH:4]2)[o:9][c:11]([CH3:6])[cH:29]1", "epd": [["LP-/Pi+", [7], [10, 7]], ["Sigma-/Sigma+", [16, 10], [16, 32]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1]([c:11]1[cH:4][n:10][c:13]2[c:16]([n+:8]([O-:5])[o:12][n:26]2)[cH:17]1)(=[O:18])[O-:23].[cH:2]1[c:25]([CH:14]=[C:19]2[S:7][c:22]3[cH:20][cH:9][cH:15][cH:6][c:21]3[N:30]2[CH3:24])[cH:3][cH:28][cH:29][cH:27]1>>[N+:1](=[C:11]1[CH:4]=[N:10][c:13]2[c:16]([n+:8]([O-:5])[o:12][n:26]2)[CH:17]1[CH:14]([c:19]1[s:7][c:22]2[cH:20][cH:9][cH:15][cH:6][c:21]2[n+:30]1[CH3:24])[c:25]1[cH:2][cH:27][cH:29][cH:28][cH:3]1)([O-:18])[O-:23]", "epd": [["LP-/Pi+", [30], [19, 30]], ["Pi-/Sigma+", [14, 19], [14, 17]], ["Pi-/Pi+", [17, 11], [11, 1]], ["Pi-/LP+", [1, 18], [18]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:1]=[S:4](=[O:2])([C:6]([F:45])([F:46])[F:47])[c:42]1[cH:17][c:5]2[n+:10]([O-:3])[o:44][n:12][c:48]2[c:41]([N+:13]([O-:11])=[O:37])[cH:43]1.[c:7]1([P:36]([c:8]2[cH:19][cH:25][c:39]([N:15]([CH3:32])[CH3:33])[cH:26][cH:20]2)[c:9]2[cH:21][cH:27][c:40]([N:16]([CH3:34])[CH3:35])[cH:28][cH:22]2)[cH:18][cH:24][c:38]([N:14]([CH3:30])[CH3:31])[cH:29][cH:23]1>>[O:1]=[S:4](=[O:2])([C:6]([F:45])([F:46])[F:47])[C:42]1=[CH:43][C:41](=[N+:13]([O-:11])[O-:37])[c:48]2[c:5]([n+:10]([O-:3])[o:44][n:12]2)[CH:17]1[P+:36]([c:7]1[cH:18][cH:24][c:38]([N:14]([CH3:30])[CH3:31])[cH:29][cH:23]1)([c:8]1[cH:19][cH:25][c:39]([N:15]([CH3:32])[CH3:33])[cH:26][cH:20]1)[c:9]1[cH:21][cH:27][c:40]([N:16]([CH3:34])[CH3:35])[cH:28][cH:22]1", "epd": [["LP-/Sigma+", [36], [36, 17]], ["Pi-/Pi+", [17, 42], [42, 43]], ["Pi-/Pi+", [43, 41], [41, 13]], ["Pi-/LP+", [13, 37], [37]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH:2]1([C:6](=[O:18])[O:32][CH3:12])[CH2:13][CH2:22][CH2:20][N:27]1[C:21]1=[CH:15][CH2:4][CH2:23][CH2:16][CH2:7]1.[N:1]1([S:5][C:17]([F:8])([F:9])[F:10])[S:3](=[O:24])(=[O:25])[c:11]2[c:28]([cH:26][cH:14][cH:29][cH:31]2)[C:30]1=[O:19]>>[CH:2]1([C:6](=[O:18])[O:32][CH3:12])[CH2:13][CH2:22][CH2:20][N+:27]1=[C:21]1[CH2:7][CH2:16][CH2:23][CH2:4][CH:15]1[S:5][C:17]([F:8])([F:9])[F:10].[N:1]1=[C:30]([O-:19])[c:28]2[c:11]([cH:31][cH:29][cH:14][cH:26]2)[S:3]1(=[O:24])=[O:25]", "epd": [["LP-/Pi+", [27], [21, 27]], ["Pi-/Sigma+", [15, 21], [15, 5]], ["Sigma-/Pi+", [5, 1], [1, 30]], ["Pi-/LP+", [30, 19], [19]]]}
{"reaction_name": "Brook rearrangement", "rsmi": "[CH3:1][C:6]([CH3:2])([Si:7]([CH3:3])([CH3:4])[CH3:5])[O-:8]>>[CH3:1][C-:6]([CH3:2])[O:8][Si:7]([CH3:3])([CH3:4])[CH3:5]", "epd": [["LP-/Sigma+", [8], [7, 8]], ["Sigma-/LP+", [6, 7], [6]]]}
{"reaction_name": "Protonation of an alkoxide after arene reduction", "rsmi": "[O-:1][CH2:2][CH2:3][CH2:4][CH2:5][OH:6].[N+:7]([H:8])([H:9])([H:10])[H:11]>>[O:1]([H:8])[CH2:2][CH2:3][CH2:4][CH2:5][OH:6].[N:7]([H:9])([H:10])[H:11]", "epd": [["LP-/Sigma+", [1], [1, 8]], ["Sigma-/LP+", [7, 8], [7]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:2](=[O+:10][CH3:9])[c:11]1[cH:7][cH:5][cH:3][cH:6][cH:8]1.[OH:1][CH3:4]>>[OH+:1]([CH:2]([O:10][CH3:9])[c:11]1[cH:7][cH:5][cH:3][cH:6][cH:8]1)[CH3:4]", "epd": [["LP-/Sigma+", [1], [1, 2]], ["Pi-/LP+", [2, 10], [10]]]}
{"reaction_name": "α-Halogenation of ketones", "rsmi": "[CH2-:1][C:6]([CH3:4])=[O:5].[Cl:2][Cl:3]>>[CH2:1]([Cl:2])[C:6]([CH3:4])=[O:5].[Cl-:3]", "epd": [["LP-/Sigma+", [1], [1, 2]], ["Sigma-/LP+", [2, 3], [3]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[cH:1]1[cH:2][cH:10][cH:17][cH+:8][cH:16][cH:9]1.[cH:3]1[c:12]2[cH:11][cH:18][c:14]([S-:5])[cH:7][c:15]2[cH:6][cH:4][cH:13]1>>[CH:1]1=[CH:2][CH:10]=[CH:17][CH:8]([S:5][c:14]2[cH:7][c:15]3[cH:6][cH:4][cH:13][cH:3][c:12]3[cH:11][cH:18]2)[CH:16]=[CH:9]1", "epd": [["LP-/Sigma+", [5], [5, 8]]]}
